US07745636B2
N-(5-(4-bromophenyl)-1H-imidazol-2-yl)acetamide
A mixture of 2-bromo-1-(4-bromophenyl)ethanone (2.00 g, 7.20 mmol) and acetylguanidine (2.18 g, 21.6 mmol) in DMF (40 mL) was stirred at rt for 48 h. The solution was concentrated to dryness in vacuo and the resulting brown solid was of sufficient purity for use in the next step. LCMS: Anal. Calcd. for C11H10BrN3O: 279, 281; found: 280, 282 (M+H)+.

reactant | 2-bromo-1-(4-bromophenyl)ethanone | 7.20 mmol, 2.00 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | acetylguanidine | 21.6 mmol, 2.18 g | C(C)(=O)NC(=N)N | C3H7N3O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-(5-(4-bromophenyl)-1H-imidazol-2-yl)acetamide | BrC1=CC=C(C=C1)C1=CN=C(N1)NC(C)=O | C11H10BrN3O
